US08497264B2
A 5 L 3-neck flask equipped with an overhead stirrer, a thermometer and nitrogen inlet was charged with PPA (4 Kg, 1942 mL) (115% H3PO4) and heated to 115-120° C. 5-Bromo-2-(4-iodophenoxy)nicotinic acid (400 g, 952 mmol) was charged portion wise to the hot PPA. The viscous mixture was then allowed to stir overnight (16-18 h) at 115-120° C. The dark viscous mixture was cooled to 60-65° C. and poured slowly onto a mixture of ice (3000 g) and water (2000 mL) under mechanical stirring. The light brown slurry was allowed to stir overnight and filtered at RT. The wet cake was washed with water (2×1000 mL) followed by IPA (1500 mL) and hexane (2×1000 mL). The solid was dried to obtain 326.4 g of 3-Bromo-7-iodo-5H-chromeno[2,3-b]pyridine-5-one as a grey solid.

reactant | H3PO4 | OP(=O)(O)O | H3O4P
reactant | 5-Bromo-2-(4-iodophenoxy)nicotinic acid | 952 mmol, 400 g | BrC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)I | C12H7BrINO3
solvent | water | 2000 mL | O | H2O
product | 3-Bromo-7-iodo-5H-chromeno[2,3-b]pyridine-5-one | 326.4 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C2=O)I | C12H5BrINO2
